** sch_path: characterisation/runs/RUN_2026-07-27_12-37-10/parameters/switching_threshold/run_2/ihp_inv_dc_tb.sch
**.subckt ihp_inv_dc_tb
**** begin user architecture code


.lib $PDK_ROOT/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_ss
.include characterisation/netlist/schematic/ihp_sg13g2_inv.spice

X1 in out vdd vss ihp_sg13g2_inv

VVDD vdd vss DC 1.32
VVSS vss 0   DC 0.0
VVIN in vss DC 0.6

.control
osdi $PDK_ROOT/ihp-sg13g2/libs.tech/ngspice/osdi/psp103.osdi
dc VVIN 0 1.32 0.0005
meas dc vth FIND v(in) WHEN v(out)='1.32/2'
echo $&vth > characterisation/runs/RUN_2026-07-27_12-37-10/parameters/switching_threshold/run_2/ihp_inv_dc_tb_2.data
quit
.endc
.end


**** end user architecture code
**.ends
.end
